US04587261
Preparation of N-(methoxycarbonyl)-N'-[2-(p-methoxyphenylmethylene)-cyclohexylidene]-hydrazine
To a solution of 22.68 g (0.252 moles) of N-methoxycarbonyl hydrazine in 100 ml of benzene a solution of 50.0 g (0.23 moles) of 2-(p-methoxyphenylmethylene)-cyclohexan-1-one in 300 ml of anhydrous methanol is added, under stirring. The reaction mixture is boiled for one hour, clarified with activated carbon, filtered and the filtrate is cooled. 63.05 g of the desired compound are obtained. Yield: 94.65%.

reactant | N-methoxycarbonyl hydrazine | 0.252 moles, 22.68 g | COC(=O)NN | C2H6N2O2
reactant | 2-(p-methoxyphenylmethylene)-cyclohexan-1-one | 0.23 moles, 50.0 g | COC1=CC=C(C=C1)C=C1C(CCCC1)=O | C14H16O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 300 ml | CO | CH4O
product | N-(methoxycarbonyl)-N'-[2-(p-methoxyphenylmethylene)-cyclohexylidene]-hydrazine | 63.05 g, Yield: 94.65% | COC(=O)NN=C1C(CCCC1)=CC1=CC=C(C=C1)OC | C16H20N2O3
